US09169259B2
A mixture of (S)-6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (200 mg, 0.61 mmol), 3-chlorophenylboronic acid (79 mg, 0.67 mmol), Pd2 dba3 (26 mg, 0.061 mmol), X-phos (87 mg, 0.24 mmol) and K2CO3 (190 mg, 1.83 mmol) were dissolved in dioxane/water (30 mL/3 mL), the reaction mixture degassed with bubbling nitrogen for 5 minutes, then heated at 100° C. with stirring for 3 h. The solvent was removed in vacuo then purified by chromatography (silica gel, dichloromethane/methanol 80:1) to give a residue which was further purified by preparative-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to afford a product which was dissolved in dichloromethane (10 mL) then concentrated HCl (2 mL) added slowly and stirred at room temperature for 10 min. The solvent was removed in vacuo to afford (S)-6-(3-chlorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-aminehydrochloride (15 mg, 6%) as an orange solid. 1H NMR (300 MHz, DMSO): δ 9.78 (s, 1H), 8.88 (s, 1H), 8.33-8.31 (m, 1H), 7.96-7.81 (m, 3H), 7.65-7.46 (m, 3H), 6.73-6.69 (m, 1H), 6.13 (d, 1H, J=8.1 Hz), 4.28-4.24 (m, 1H), 3.63-3.58 (m, 1H), 3.47-3.41 (m, 1H), 2.12-2.02 (m, 3H), 1.74-1.73 (m, 1H), 1.16 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 405, tR=2.26 min, HPLC: 99.61% at 214 nm, 95.33% at 254 nm, tR=5.36 min.

reactant | (S)-6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.61 mmol, 200 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2[C@H](CCC2)C | C16H17ClN6
reactant | 3-chlorophenylboronic acid | 0.67 mmol, 79 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | X-phos | 0.24 mmol, 87 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 1.83 mmol, 190 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2 mL | Cl | ClH
solvent | dioxane water | 30 mL | O1CCOCC1.O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | Pd2 dba3 | 0.061 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-6-(3-chlorophenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-aminehydrochloride | 15 mg, 6% | Cl.ClC=1C=C(C=CC1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2[C@H](CCC2)C | InChI=1S/C22H21ClN6.ClH/c1-15-5-4-11-28(15)21-9-3-8-20(26-21)25-19-14-18(16-6-2-7-17(23)13-16)27-29-12-10-24-22(19)29;/h2-3,6-10,12-15H,4-5,11H2,1H3,(H,25,26);1H/t15-;/m0./s1
